US06624309B1
A. 2,2-Dimethylcyclopentanecarbonitrile
Tosylmethyl isocyanide (3.76 g, 19.3 mmol) was dissolved in dimethylsulfoxide (15 mL) and cooled to 0° C. Solid potassium t-butoxide (6.3 g, 59.2 mmol) was added and a thick brown precipitate formed. The reaction mixture was warmed to room temperature and 2,2-dimethylcyclopentanone (2.0 mL, 16.0 mmol) was added in anhydrous methanol (680 μL) and the reaction mixture was stirred for 30 hours. It was diluted with ethyl acetate, acidified with hydrochloric acid and extracted with hexanes. The extracts were dried over magnesium sulfate, filtered and the solvent was removed to provide a brown oil which was purified by chromatography on silica gel eluted with 0-50% dichloromethane in hexanes to yield a yellow oil (612 mg, 31%).

reactant | Tosylmethyl isocyanide | 19.3 mmol, 3.76 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium t-butoxide | 59.2 mmol, 6.3 g | CC(C)([O-])C.[K+]
reactant | 2,2-dimethylcyclopentanone | 16.0 mmol, 2.0 mL | CC1(C(CCC1)=O)C | C7H12O
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 15 mL | CS(=O)C | C2H6OS
solvent | methanol | 680 μL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2-Dimethylcyclopentanecarbonitrile | 612 mg, 31% | CC1(C(CCC1)C#N)C | C8H13N
